US09314023B2
A mixture of 1-bromo-2-methyl-3-aminobenzene 25.0 g, triphosgene 60.0 g and toluene 400 ml was stirred with heating under reflux for three hours. The reaction mixture after standing to cool was concentrated under reduced pressure to give 1-bromo-3-isocyanato-2-methylbenzene 30.3 g.

reactant | 1-bromo-2-methyl-3-aminobenzene | 25.0 g | BrC1=C(C(=CC=C1)N)C | C7H8BrN
reactant | triphosgene | 60.0 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 1-bromo-3-isocyanato-2-methylbenzene | 30.3 g | BrC1=C(C(=CC=C1)N=C=O)C | C8H6BrNO
